US04973599
2-[(4-Nitrophenyl)thio]-1-(phenylmethyl)-1H-imidazole
A mixture of 0.85 g (15.8 mmoles) of sodium methoxide and 15 ml of ethanol was refluxed for 5 minutes and then cooled to room temperature. To this solution was added 1.5 g (7.9 mmoles) of 2-mercapto-1-phenylmethylimidazole. After stirring for 10 minutes, 1.1 g (7.9 mmoles) of 1-fluoro-4-nitrobenzene was added and the mixture refluxed for 4 hours. An additional 0.85 g of sodium methoxide was added and the mixture refluxed for 9 hours. The mixture was filtered and the filtrate cooled and the resulting precipitate collected by filtration. The solid was recrystallized from dichloromethane/methanol to give the product as beige prisms, mp 122°-123° C.

reactant | sodium methoxide | 15.8 mmoles, 0.85 g | C[O-].[Na+]
reactant | 2-mercapto-1-phenylmethylimidazole | 7.9 mmoles, 1.5 g | SC=1N(C=CN1)CC1=CC=CC=C1 | C10H10N2S
reactant | 1-fluoro-4-nitrobenzene | 7.9 mmoles, 1.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | sodium methoxide | 0.85 g | C[O-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-[(4-Nitrophenyl)thio]-1-(phenylmethyl)-1H-imidazole | [N+](=O)([O-])C1=CC=C(C=C1)SC=1N(C=CN1)CC1=CC=CC=C1 | C16H13N3O2S
